US05208240
Preparation of 2-[4-[1-(2,3,6,9-Tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propyl]phenoxy]acetic acid, methyl ester
Dissolve 2-[4-[1-(2,3,6,9-tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propyl]phenoxy]acetic acid (85.6 g, 0.2 mol) in methanol (500 mL) and treat with concentrated sulfuric acid (0.5 mL). Heat to 60° C. for 16 hours, cool and reduce the solvent by 50% in vacuo. Dilute with ethyl ether (500 mL), wash with saturated sodium hydrogen carbonate, then brine. Dry (MgSO4) and evaporate the solvent in vacuo to give the title compound.

reactant | 2-[4-[1-(2,3,6,9-tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propyl]phenoxy]acetic acid | 0.2 mol, 85.6 g | C(CC)N1C(N(C=2NC(=NC2C1=O)C(CC)C1=CC=C(OCC(=O)O)C=C1)CCC)=O | C22H28N4O5
reactant | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 500 mL | CO | CH4O
solvent | ethyl ether | 500 mL | C(C)OCC | C4H10O
product | 2-[4-[1-(2,3,6,9-Tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propyl]phenoxy]acetic acid, methyl ester | C(CC)N1C(N(C=2NC(=NC2C1=O)C(CC)C1=CC=C(OCC(=O)OC)C=C1)CCC)=O | C23H30N4O5
